US08252831B2
2-Chloro-5-[(2,2-dimethylpropanoylamino)methyl]-N-(1H-imidazol-2-yl)benzamide
To a thermally controlled reaction vessel, add 2-chloro-5-[(2,2-dimethylpropanoylamino)methyl]benzoic acid (420 g, 1.56 mol, 1.0 equiv), 2-aminoimidazole monosulfate (349 g, 1.87 mol, 1.2 equiv), N,N-dimethylformamide (2.94 L), O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate (722 g, 2.18 mol, 1.4 equiv), and N,N-diisopropylethylamine (869 mL, 4.98 mol, 3.2 equiv). Heat the resulting suspension to an internal temperature of 80° C. for 18 hours. Cool the reaction mixture to 10° C., pour the mixture into ice water (14 L), and stir for 90 min. Collect the solids by filtration, dry the material in air for 24 h, and in a vacuum oven at 50° C. for 24 h. Slurry the solid material in isopropanol (7 L), heat to an internal temperature of 73° C. for 3 h, and cool to 10° C. Filter the suspension to isolate the solid material. Dry the material in air for 24 h and in a vacuum oven at 55° C. for 48 h to give the title compound as an off-white solid (435 g, 83.4%). 1H NMR (DMSO-d6, 400 MHz): δ 11.84 (s, 2H), 8.13 (t, 1H, J=6.0 Hz), 7.47 (d, 1H, J=8.3 Hz), 7.40 (d, 1H, J=1.7 Hz), 7.31 (dd, 1H, J=8.3, 2.0 Hz), 6.73 (s, 2H), 4.27 (d, 2H, J=5.9 Hz), 1.12 (s, 9H). MS (m/z) (35Cl/37Cl) 335/337 (M+1).

reactant | 2-chloro-5-[(2,2-dimethylpropanoylamino)methyl]benzoic acid | 1.56 mol, 420 g, 1.0 equiv | ClC1=C(C(=O)O)C=C(C=C1)CNC(C(C)(C)C)=O | C13H16ClNO3
reactant | 2-aminoimidazole monosulfate | 1.87 mol, 349 g, 1.2 equiv | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 2.18 mol, 722 g, 1.4 equiv | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 4.98 mol, 869 mL, 3.2 equiv | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2.94 L | CN(C=O)C | C3H7NO
product | 2-Chloro-5-[(2,2-dimethylpropanoylamino)methyl]-N-(1H-imidazol-2-yl)benzamide | 435 g, 83.4% | ClC1=C(C(=O)NC=2NC=CN2)C=C(C=C1)CNC(C(C)(C)C)=O | C16H19ClN4O2
